US05583130
Step A: 2-Bromo-(thiobenzamide)
Gaseous hydrogen sulfide was bubbled into a stirred solution of 1.82 g (10.0 mmol) of 2-bromobenzonitrile, 13 mL of triethylamine and 10 mL of pyridine. After 4 hours, the reaction mixture was poured into 200 mL of ice-water mixture. The resultant oil slowly crystallized. The precipitate was removed by filtration, washed with water (3×) and dissolved in methylene chloride. The organic layer was separated, dried over magnesium sulfate and filtered. The filtrate was evaporated under vacuum to give 1.46 g (6.76 mmol, 68%) of the product. 1H NMR (200 MHz, CDCl3): 7.24 (m, 4H), 7.52 (dt, 1H), 8.59 (dd, 1H).

reactant | hydrogen sulfide | S | H2S
reactant | 2-bromobenzonitrile | 10.0 mmol, 1.82 g | BrC1=C(C#N)C=CC=C1 | C7H4BrN
reactant | triethylamine | 13 mL | C(C)N(CC)CC | C6H15N
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2-Bromo-(thiobenzamide) | 6.76 mmol, 1.46 g, 68% | BrC1=C(C(=S)N)C=CC=C1 | C7H6BrNS
